US05698546
To a stirred solution of 3,6,14,17,23,24-hexaazatricyclo-[17.3.1.18,12 ]tetracosa-1(23),8,10,12(24),19,21-hexaene (460 mg, 1.41 mmol) (G L Rothermel, L Miao, A L Hill, L C Jackels, Inorg Chem, 1992, 31, 4854) and triethylamine (0.60 ml, 4.233 mmol) at 0° C. in 40 ml of CH2 Cl2 under an argon atmosphere was added a solution of p-toluenesulphonyl chloride (804 mg, 4.233 mmol) in 10 ml of CH2 Cl2 dropwise over 15 min. The solution was stirred at 0° C. for 30 minutes and warmed to room temperature and stirred a further 4 hours. The reaction mixture was quenched with saturated NH4Cl (10 ml), the aqueous phase extracted with CH2Cl2, dried over MgSO4 and concentrated in vacuo. The residue was purified by column chromatography on silica gel using 5% MeOH in CH2Cl2 as eluent giving 3,6,14-tris(p-toluenesulphonyl)-3,6,14,17,23,24-hexaaza-tricyclo[17.3.1.18,12 ]tetracosa-1(23),8,10,12(24),19,21-hexaene (300 mg, 27%) as a white solid.

reactant | 3,6,14,17,23,24-hexaazatricyclo-[17.3.1.18,12 ]tetracosa-1(23),8,10,12(24),19,21-hexaene | 1.41 mmol, 460 mg | C1=2CNCCNCC3=CC=CC(CNCCNCC(=CC=C1)N2)=N3 | C18H26N6
reactant | triethylamine | 4.233 mmol, 0.60 ml | C(C)N(CC)CC | C6H15N
reactant | Cl2 | ClCl | Cl2
reactant | p-toluenesulphonyl chloride | 4.233 mmol, 804 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | 3,6,14-tris(p-toluenesulphonyl)-3,6,14,17,23,24-hexaaza-tricyclo[17.3.1.18,12 ]tetracosa-1(23),8,10,12(24),19,21-hexaene | 300 mg, 27% | C1(=CC=C(C=C1)S(=O)(=O)N1CC=2C=CC=C(CNCCN(CC=3C=CC=C(CN(CC1)S(=O)(=O)C1=CC=C(C=C1)C)N3)S(=O)(=O)C3=CC=C(C=C3)C)N2)C | C39H44N6O6S3
